US08530490B2
Synthesis of N-benzhydryl-4-(bromomethyl)benzenesulfonamide
Benzhydrylamine (640 μL) was dissolved in dichloromethane (5.0 mL). To the solution, triethylamine (645 μl) and 4-(bromomethyl)benzenesulfonyl chloride (1.0 g) were added at 0° C., and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, water (10 mL) was added, and the resultant mixture was then extracted with chloroform (30 mL). The organic layer was washed with brine (15 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane) to obtain the title compound (753 mg).

reactant | Benzhydrylamine | 640 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | triethylamine | 645 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)benzenesulfonyl chloride | 1.0 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | N-benzhydryl-4-(bromomethyl)benzenesulfonamide | 753 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)CBr | C20H18BrNO2S
